US06291452B1
To a suspension of sodium hydride (0.123 g of a 65% dispersion in mineral oil) in dry N, N-dimethylformamide (10 ml) was added dropwise a solution of (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one (1.00 g) in dry N,N-dimethylformamide (5 ml) under cooling in an ice-bath. The mixture was stirred at the same temperature for 1 hour and then at room temperature for 1 hour. To the mixture was added dropwise a solution of N-bromomethylcarbonyl-3-azabicyclo[3.2.2]nonane (0.77 g) in dry N,N-dimethylformamide (5 ml) and stirred at the same condition for 2 hours. The reaction mixture was concentrated in vacuo and the residue was taken up with ethyl acetate (100 ml) and a saturated aqueous sodium hydrogen carbonate (100 ml). The organic layer was washed with a brine (50 ml) and dried over anhydrous magnesium sulfate. Filtration and evaporation gave (3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-3-benzyloxy-carbonylamino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one.

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one | 1.00 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C(C)C)C=CC=C2)=O | C20H21N3O3
reactant | N-bromomethylcarbonyl-3-azabicyclo[3.2.2]nonane | 0.77 g | BrCC(=O)N1CC2CCC(C1)CC2 | C10H16BrNO
reactant | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-3-benzyloxy-carbonylamino-2,3-dihydro-5-isopropyl-1H-1,4-benzodiazepin-2-one | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C(C)C)(OCC1=CC=CC=C1)N=C=O)=O | C30H34N4O4
